US05998433
b) Synthesis of (E)-N,N-dimethyl-[5-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.280 g (0.850 mmol) of (E)-5-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 20 ml of acetic acid, 0.115 ml (1.28 mmol) of 50% aqueous dimethylamine and 0.103 ml (1.28 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 60 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous solution of sodium hydrogen carbonate, and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform/methanol=50/1 to 25/1). The resulting product was washed with diethyl ether to yield the desired product.

reactant | (E)-5-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 0.850 mmol, 0.280 g | C1(=CC=C(C=C1)C(=O)N1CC2=C(CC1)OC=C2)\C=C\C2=CC=CC=C2 | C22H19NO2
reactant | dimethylamine | 1.28 mmol, 0.115 ml | CNC | C2H7N
reactant | formaldehyde | 1.28 mmol, 0.103 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (E)-N,N-dimethyl-[5-(4-stilbenecarbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1=CC=C(C=C1)\C=C\C1=CC=CC=C1 | C25H26N2O2
